US06069157
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4,4-diethoxy-1-hydroxybut-2-ynyl)pyrazole
To a solution of propionaldehyde diethyl acetal (0.0192 g) in anhydrous tetrahydrofuran (2 ml) cooled to -78° C. under an atmosphere of nitrogen was added dropwise n-butyl lithium (621 μl, 2.5M in hexanes) and the mixture was stirred for 10 minutes. 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole (0.05 g) was added and stirring continued for 30 minutes. The reaction mixture was poured into water (5 ml) and ether (5 ml). The organic layer was separated, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (5 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white foam.

reactant | propionaldehyde diethyl acetal | 0.0192 g | C(C)OC(CC)OCC | C7H16O2
reactant | n-butyl lithium | 2.5M, 621 μl | C(CCC)[Li]
reactant | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole | 0.05 g | C(#N)C1=NN(C=C1C=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F3N3O
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4,4-diethoxy-1-hydroxybut-2-ynyl)pyrazole | C(#N)C1=NN(C=C1C(C#CC(OCC)OCC)O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C19H16Cl2F3N3O3
